US05574064
Synthesis of 2-(4-cyanophenoxy)-1-methylethylamine (Intermediate Compound No. 1)
293 g of ammonium acetate and 16.7 g of sodium cyanoborohydride were added to a solution containing 66.5 g of 4-cyanophenoxyacetone dissolved in 1500 mL of methanol, and the resultant mixture was stirred for 30 hours at room temperature. The reaction mixture was then concentrated under reduced pressure, and acidified with concentrated hydrochloric acid. 500 mL of diethyl ether and 300 mL of water were then added thereto. Subsequently, the resultant water layer was made basic with a 5% aqueous solution of sodium hydroxide, the solution was extracted with 1000 mL of diethyl ether, and then washed with water. The organic layer was then dried over anhydrous sodium sulfate, and the diethyl ether was removed under reduced pressure. The obtained residue was distilled under reduced pressure to yield 13.0 g of the desired product (19%). Boiling point: 132° C./0.26 mmHg.

reactant | ammonium acetate | 293 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 16.7 g | C(#N)[BH3-].[Na+]
reactant | 4-cyanophenoxyacetone | 66.5 g | C(#N)C1=CC=C(OCC(C)=O)C=C1 | C10H9NO2
solvent | methanol | 1500 mL | CO | CH4O
product | 2-(4-cyanophenoxy)-1-methylethylamine | 13.0 g, 19% | C(#N)C1=CC=C(OCC(C)N)C=C1 | C10H12N2O
